US08349880B2
Step H (4): Methanolic ammonia (1.3 mL, 9.28 mmol) was added to a flask charged with 5-(4-isothiocyanato-2-methoxyphenyl)-3-methylisoxazole (508 mg, 2.063 mmol) in MeOH (4.6 mL). After stirring at rt for 24 h, the reaction mixture was concentrated to dryness in vacuo to afford 1-(3-methoxy-4-(3-methylisoxazol-5-yl)phenyl)thiourea (540 mg, 2.051 mmol, 99% yield). LC-MS (M+H)+ 264.2. 1H NMR (400 MHz, methanol-d4) δ ppm 7.82 (d, J=8.56 Hz, 1 H) 7.49-7.54 (m, 1 H) 6.99 (dd, J=8.56, 2.01 Hz, 1 H) 6.67 (s, 1 H) 3.96 (s, 3 H) 2.30 (s, 3 H).

reactant | ammonia | 9.28 mmol, 1.3 mL | N | H3N
reactant | 5-(4-isothiocyanato-2-methoxyphenyl)-3-methylisoxazole | 2.063 mmol, 508 mg | N(=C=S)C1=CC(=C(C=C1)C1=CC(=NO1)C)OC | C12H10N2O2S
solvent | MeOH | 4.6 mL | CO | CH4O
product | 1-(3-methoxy-4-(3-methylisoxazol-5-yl)phenyl)thiourea | 2.051 mmol, 540 mg, 99% yield | COC=1C=C(C=CC1C1=CC(=NO1)C)NC(=S)N | C12H13N3O2S
